US06818644B1
9-{4-[4-(6-methoxy-pyridin-2-yl)-2,6-dimethyl-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide
Prepared analogously to Example 2 b from 1-(6-methoxy-pyridin-2-yl)-3,5-dimethyl-piperazine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide.

reactant | 1-(6-methoxy-pyridin-2-yl)-3,5-dimethyl-piperazine | COC1=CC=CC(=N1)N1CC(NC(C1)C)C | C12H19N3O
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
product | 9-{4-[4-(6-methoxy-pyridin-2-yl)-2,6-dimethyl-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1C(CN(CC1C)C1=NC(=CC=C1)OC)C)(F)F | C32H37F3N4O2
